*****************************************************************
* OSRAM OS                                                      *
* PSPICE Library for Phototransistor                            *
* Version 08/2011 / hh	                                        *
*****************************************************************
* internet          :  www.osram-os.com                         * 
*****************************************************************
*                                                               *
* Models provided by OSRAM are not warranted by OSRAM as        *
* fully representing all the specifications and operating       *
* characteristics of the semiconductor product to which the     *
* model relates. The models describe the characteristics of     *
* typical devices.                                              *
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Although models can be a useful tool in evaluating device     *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. OSRAM therefore does not     *
* assume any liability arising from their use.                  *
* OSRAM reserves the right to change models without prior       *
* notice.                                                       *
*                                                               *
*****************************************************************
*                                                               *
* This library contains models of the following OSRAM           *
* photodiodes                                                   *
* 1. enhanced models (parts may be not available any more)      * 
*   F003                                                        *
*    BPX-38 	      BPX-43                                    *
*   F049                                                        *
*    SFH-3410     SFH-3710		 SFH-3310   					*
*   F092                                                        *
*    SFH-309      SFH-320        SFH-3211     SFH-3219          * 
*    SFH-325                                                    *
*   F144                                                        *
*    SFH-314      SFH-3400       SFH-3401     SFH-313           *
*    SFH-3201     SFH-3500										*
*   F351                                                        *
*    SFH-3010     SFH-3600       SFH-3605     SFH-3204          *
*    SFH-3015                                                   *
*   F431                                                        *
*    SFH-300      SFH-305 	       SFH-3100     SFH-303     	*
*    LPT-80       BPY-62 	        BP-103       BPX-80     	*
*    BPX-81       BPX-83 	        BPX-84       BPX-85     	*
*    BPX-86       BPX-87 	        BPX-88       BPX-89     	*
*    SFH-310                                                    *
*---------------------------------------------------------------*
* connections:     optical input(+)                             *
*                   |      optical input(-)                     *
*                   |       |      Collector                    *
*                   |       |       |    Emitter            	*
*                   |       |       |     |                 	*
*.subckt  SFHXXXX  Opt_In+ Opt_In- Coll Emit              		*
*																*
* for BP103, BPX38, BPX43, BPY62, SFH303 and SFH3401 only:		*
* connections:     optical input(+)                             *
*                   |      optical input(-)                     *
*                   |       |      Collector                    *
*                   |       |       |   Base                    *
*                   |       |       |    |   Emitter            *
*                   |       |       |    |    |                 *
*.subckt  SFHXXXX  Opt_In+ Opt_In- Coll Base  Emit              *
*---------------------------------------------------------------*
* optical input:                                                *
*    connect voltage source between optical input(+) and        *
*    optical input(-) with voltage representing                 * 
*    irradiance (1 mV represents 1 mW/cm2)                      *
*    For default (no light), set both optical inputs to         *
*    ground (0) = 0VDC                                          *  
* base:                                                         *
*    for default, connect base node via R=10G to GND(0)/Emitter *
*---------------------------------------------------------------*
* parameter SENS:                                               *
*    the subcircuit also contains a parameter that may          *
*    be changed/handed over by the user:                        *
*    SENS = rel. spectral sensitivity in % for the wavelength   *
*           of interest normalized to the peak rel. sensitivity *
*    default = 100 (%). Needs to be adapted according to        *
*              datasheet for wavelength of interest             *
*              For standard IR phototransistor 100(%) works     * 
*              typ. well for 850-950 nm                         *
*              For ambient light sensors 100(%) refers to       *
*              around 550 nm                                    *
*    RESP = photocurrent / irradiance,                          *
*              e.g. 50uA/1mW/cm2 = 50e-3 (mA/(mW/cm2))          * 
*              usually this parameter don’t need to be changed  *
*              *1e-2 to compensate for percentage in SENS       * 
*    LENS = lens-factor, defaut = 1 for no lens                 *
*---------------------------------------------------------------*
* The model includes parameters for:                            * 
*    1) forward direction (Vcollector > Vemitter)               *
* The model has limited accuracy for:                           *
*    2) near-saturation and saturation condition                *
*    3) base transit time (dynamic behavor)                     *
*    4) noise                                                   *
*    5) intrinsic optical-electrical conversion frequ. response *
*****************************************************************

*F003
**** BPX38 SENS=100 at 880nm, lens=1 **** BASE CONNECTION
.subckt BPX38 Opt_In+ Opt_In- Base Coll Emit
+params: SENS=100 resp=3.6e-5 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F003
.MODEL F003 NPN (IS=4.92e-14 BF=220 NF=1.035 VAF=468
+ ISE=4.92e-14 NE=2 RE=1.42 RC=43 IKF=130e-3
+ CJE=5.37E-11 MJE=0.347 VJE=0.69 FC=0.5 CJC=3.67E-12
+ MJC=0.43 VJC=0.481 TF=12e-9)
.ends
*****************************************************************
**** BPX43 SENS=100 at 880nm, lens=6.4 **** BASE CONNECTION
.subckt BPX43 Opt_In+ Opt_In- Base Coll Emit
+params: SENS=100 resp=3.6e-5 lens=6.4
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F003
.MODEL F003 NPN (IS=4.92e-14 BF=220 NF=1.035 VAF=468
+ ISE=4.92e-14 NE=2 RE=1.42 RC=43 IKF=130e-3
+ CJE=5.37E-11 MJE=0.347 VJE=0.69 FC=0.5 CJC=3.67E-12
+ MJC=0.43 VJC=0.481 TF=12e-9)
.ends
*****************************************************************

*F049
**** SFH3410 SENS=100 at 570nm, lens=1 * NO BASE
.subckt SFH3410 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=1e-5 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F049
.MODEL F049 NPN (IS=6.12e-15 BF=480 NF=1.053 VAF=25.6
+ ISE=6.12E-15 NE=2 RE=19.8 RC=13
+ CJE=3.98E-12 MJE=0.234 VJE=0.696 FC=0.5 CJC=7.07E-11
+ MJC=0.312 VJC=0.539 TF=1e-13)
.ends
*****************************************************************
**** SFH3710 SENS=100 at 570nm, lens=1 * NO BASE
.subckt SFH3710 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=1e-5 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F049
.MODEL F049 NPN (IS=6.12e-15 BF=480 NF=1.053 VAF=25.6
+ ISE=6.12E-15 NE=2 RE=19.8 RC=13
+ CJE=3.98E-12 MJE=0.234 VJE=0.696 FC=0.5 CJC=7.07E-11
+ MJC=0.312 VJC=0.539 TF=1e-13)
.ends
*****************************************************************
**** SFH3310 SENS=100 at 570nm, lens=1 * NO BASE
.subckt SFH3310 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=1e-5 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F049
.MODEL F049 NPN (IS=6.12e-15 BF=480 NF=1.053 VAF=25.6
+ ISE=6.12E-15 NE=2 RE=19.8 RC=13
+ CJE=3.98E-12 MJE=0.234 VJE=0.696 FC=0.5 CJC=7.07E-11
+ MJC=0.312 VJC=0.539 TF=1e-13)
.ends
*****************************************************************

*****************************************************************
**** SFH309 SENS=100 at 860nm, lens=11 * NO BASE
.subckt SFH309 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=7.18e-6 lens=11
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F092
.MODEL F092 NPN(IS=22.500E-15 BF=714.44 NF=1.0100 VAF=93.200
+ IKF=10.010E-3 ISE=22.500E-15 NE=1.7206 VAR=300 NK=.2987 RE=59.2
+ CJE=9.212E-12 MJE=0.286 VJE=0.627 FC=0.5 CJC=8.735E-12
+ MJC=0.275 VJC=0.467 TF=0.1E-9)
.ends
*****************************************************************
**** SFH320 SENS=100 at 980nm, lens=1 * NO BASE
.subckt SFH320 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=7.18e-6 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F092
.MODEL F092 NPN(IS=22.500E-15 BF=714.44 NF=1.0100 VAF=93.200
+ IKF=10.010E-3 ISE=22.500E-15 NE=1.7206 VAR=300 NK=.2987 RE=59.2
+ CJE=9.212E-12 MJE=0.286 VJE=0.627 FC=0.5 CJC=8.735E-12
+ MJC=0.275 VJC=0.467 TF=0.1E-9)
.ends
*****************************************************************
**** SFH3211 SENS=100 at 980nm, lens=1 * NO BASE
.subckt SFH3211 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=7.18e-6 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F092
.MODEL F092 NPN(IS=22.500E-15 BF=714.44 NF=1.0100 VAF=93.200
+ IKF=10.010E-3 ISE=22.500E-15 NE=1.7206 VAR=300 NK=.2987 RE=59.2
+ CJE=9.212E-12 MJE=0.286 VJE=0.627 FC=0.5 CJC=8.735E-12
+ MJC=0.275 VJC=0.467 TF=0.1E-9)
.ends
*****************************************************************
**** SFH3219 SENS=100 at 990nm, lens=4 * NO BASE
.subckt SFH3219 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=7.18e-6 lens=4
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F092
.MODEL F092 NPN(IS=22.500E-15 BF=714.44 NF=1.0100 VAF=93.200
+ IKF=10.010E-3 ISE=22.500E-15 NE=1.7206 VAR=300 NK=.2987 RE=59.2
+ CJE=9.212E-12 MJE=0.286 VJE=0.627 FC=0.5 CJC=8.735E-12
+ MJC=0.275 VJC=0.467 TF=0.1E-9)
.ends
*****************************************************************
**** SFH325 SENS=100 at 980nm, lens=1 * NO BASE
.subckt SFH325 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=7.18e-6 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F092
.MODEL F092 NPN(IS=22.500E-15 BF=714.44 NF=1.0100 VAF=93.200
+ IKF=10.010E-3 ISE=22.500E-15 NE=1.7206 VAR=300 NK=.2987 RE=59.2
+ CJE=9.212E-12 MJE=0.286 VJE=0.627 FC=0.5 CJC=8.735E-12
+ MJC=0.275 VJC=0.467 TF=0.1E-9)
.ends
*****************************************************************
*****************************************************************



*F144
**** SFH314 SENS=100 at 850nm, lens=2.8 * NO BASE
.subckt SFH314 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.5e-5 lens=2.8
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F144
.MODEL F144 NPN (IS=6.02e-14 BF=510 NF=1.043 VAF=229
+ IKF=61E-3 ISE=6.02E-14 NE=2 RE=2.84 
+ CJE=1.96E-11 MJE=0.336 VJE=0.671 FC=0.5 CJC=3.87E-11
+ MJC=0.445 VJC=0.539 TF=0.1e-13)
.ends
*****************************************************************
**** SFH3400 SENS=100 at 850nm, lens=1 * NO BASE
.subckt SFH3400 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.5e-5 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F144
.MODEL F144 NPN (IS=6.02e-14 BF=510 NF=1.043 VAF=229
+ IKF=61E-3 ISE=6.02E-14 NE=2 RE=2.84 
+ CJE=1.96E-11 MJE=0.336 VJE=0.671 FC=0.5 CJC=3.87E-11
+ MJC=0.445 VJC=0.539 TF=0.1e-13)
.ends
*****************************************************************
**** SFH3401 SENS=100 at 850nm, lens=1 **** BASE CONNECTION
.subckt SFH3401 Opt_In+ Opt_In- Base Coll Emit
+params: SENS=100 resp=2.5e-5 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F144
.MODEL F144 NPN (IS=6.02e-14 BF=510 NF=1.043 VAF=229
+ IKF=61E-3 ISE=6.02E-14 NE=2 RE=2.84 
+ CJE=1.96E-11 MJE=0.336 VJE=0.671 FC=0.5 CJC=3.87E-11
+ MJC=0.445 VJC=0.539 TF=0.1e-13)
.ends
*****************************************************************
**** SFH313 SENS=100 at 850nm, lens=10 * NO BASE
.subckt SFH313 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.5e-5 lens=10
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F144
.MODEL F144 NPN (IS=6.02e-14 BF=510 NF=1.043 VAF=229
+ IKF=61E-3 ISE=6.02E-14 NE=2 RE=2.84 
+ CJE=1.96E-11 MJE=0.336 VJE=0.671 FC=0.5 CJC=3.87E-11
+ MJC=0.445 VJC=0.539 TF=0.1e-13)
.ends
*****************************************************************
**** SFH3201 SENS=100 at 850nm, lens=1 * NO BASE
.subckt SFH3201 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.5e-5 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F144
.MODEL F144 NPN (IS=6.02e-14 BF=510 NF=1.043 VAF=229
+ IKF=61E-3 ISE=6.02E-14 NE=2 RE=2.84 
+ CJE=1.96E-11 MJE=0.336 VJE=0.671 FC=0.5 CJC=3.87E-11
+ MJC=0.445 VJC=0.539 TF=0.1e-13)
.ends
*****************************************************************
**** SFH3500 SENS=100 at 850nm, lens=10 * NO BASE
.subckt SFH3500 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.5e-5 lens=10
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F144
.MODEL F144 NPN (IS=6.02e-14 BF=510 NF=1.043 VAF=229
+ IKF=61E-3 ISE=6.02E-14 NE=2 RE=2.84 
+ CJE=1.96E-11 MJE=0.336 VJE=0.671 FC=0.5 CJC=3.87E-11
+ MJC=0.445 VJC=0.539 TF=0.1e-13)
.ends
*****************************************************************




*****************************************************************
**** F351 SENS=100 at 880nm
*** SFH 3010, SENS = 100 at 860 nm, lens = 1 * NO BASE
.subckt SFH3010 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=3.16e-6 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F351
.MODEL F351 NPN (IS=21E-15 BF=898 NF=1.02 VAF=62 IKF=81.2E-3
+ ISE=21E-15 NE=1.998 VAR=300 NK=0.595 CJE=5.4E-12 MJE=0.3
+ VJE=0.627 FC=0.5 CJC=7.1E-12 MJC=0.306 VJC=0.503 TF=2.000E-9)
.ends
*****************************************************************
*** SFH 3600, SENS = 100 at 990 nm, lens = 8 * NO BASE
.subckt SFH3600 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=3.16e-6 lens=8  
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F351
.MODEL F351 NPN (IS=21E-15 BF=898 NF=1.02 VAF=62 IKF=81.2E-3
+ ISE=21E-15 NE=1.998 VAR=300 NK=0.595 CJE=5.4E-12 MJE=0.3
+ VJE=0.627 FC=0.5 CJC=7.1E-12 MJC=0.306 VJC=0.503 TF=2.000E-9)
.ends
*****************************************************************
*** SFH 3605, SENS = 100 at 990 nm, lens = 8 * NO BASE
.subckt SFH3605 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=3.16e-6 lens=8
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F351
.MODEL F351 NPN (IS=21E-15 BF=898 NF=1.02 VAF=62 IKF=81.2E-3
+ ISE=21E-15 NE=1.998 VAR=300 NK=0.595 CJE=5.4E-12 MJE=0.3
+ VJE=0.627 FC=0.5 CJC=7.1E-12 MJC=0.306 VJC=0.503 TF=2.000E-9)
.ends
*****************************************************************
*** SFH 3204, SENS = 100 at 920 nm, lens = 3 * NO BASE
.subckt SFH3204 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=3.16e-6 lens=3
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F351
.MODEL F351 NPN (IS=21E-15 BF=898 NF=1.02 VAF=62 IKF=81.2E-3
+ ISE=21E-15 NE=1.998 VAR=300 NK=0.595 CJE=5.4E-12 MJE=0.3
+ VJE=0.627 FC=0.5 CJC=7.1E-12 MJC=0.306 VJC=0.503 TF=2.000E-9)
.ends
*****************************************************************
*** SFH 3015, SENS = 100 at 870 nm, lens = 11 * NO BASE
.subckt SFH3015 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=3.16e-6 lens=11
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F351
.MODEL F351 NPN (IS=21E-15 BF=898 NF=1.02 VAF=62 IKF=81.2E-3
+ ISE=21E-15 NE=1.998 VAR=300 NK=0.595 CJE=5.4E-12 MJE=0.3
+ VJE=0.627 FC=0.5 CJC=7.1E-12 MJC=0.306 VJC=0.503 TF=2.000E-9)
.ends
*****************************************************************

*****************************************************************
**** SFH300 SENS=100 at 880nm, lens=6.2 * NO BASE
.subckt SFH300 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.13e-5 lens=6.2
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************
**** SFH305 SENS=100 at 850nm, lens=2.5 * NO BASE
.subckt SFH305 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.13e-5 lens=2.5
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************
**** SFH3100 SENS=100 at 920nm, lens=7 * NO BASE
.subckt SFH3100 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.13e-5 lens=7
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************
**** SFH303 SENS=100 at 990nm, lens=4 **** BASE CONNECTION
.subckt SFH303 Opt_In+ Opt_In- Base Coll Emit
+params: SENS=100 resp=2.13e-5 lens=4
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=383.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************
**** LPT80 SENS=100 at 880nm, lens=3 * NO BASE
.subckt LPT80 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.13e-5 lens=3
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************
**** BPY62 SENS=100 at 830nm, lens=5.5 **** BASE CONNECTION
.subckt BPY62 Opt_In+ Opt_In- Base Coll Emit
+params: SENS=100 resp=2.13e-5 lens=5.5
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************
**** BP103 SENS=100 at 850nm, lens=1 **** BASE CONNECTION
.subckt BP103 Opt_In+ Opt_In- Base Coll Emit
+params: SENS=100 resp=2.13e-5 lens=1
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************
**** BPX8x SENS=100 at 850nm, lens=2.5 * NO BASE
.subckt BPX8x Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.13e-5 lens=2.5
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************
**** BPX81 SENS=100 at 850nm, lens=2.5 * NO BASE
.subckt BPX81 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.13e-5 lens=2.5
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************
**** SFH310 SENS=100 at 880nm, lens=8 * NO BASE
.subckt SFH310 Opt_In+ Opt_In- Coll Emit
+params: SENS=100 resp=2.13e-5 lens=8
G001 Emit Base Opt_In+ Opt_In- {SENS*resp*lens}
Q001 Coll Base Emit F431
.MODEL F431 NPN (IS=20.000E-15 BF=223.74 NF=1.0100 VAF=315
+ IKF=.93501 ISE=41.698E-15 NE=1.9980 VAR=300 RE=34.400 RC=17.600
+ CJE=25.058E-12 MJE=0.332 VJE=0.678 FC=0.5 CJC=2.0000E-12
+ MJC=0.350 VJC=0.545 TF=6.5E-9)
.ends
*****************************************************************